US03959488
To 0.05 moles of 1-(p-tolyl)biguanide dissolved in 75 ml of acetic acid is added 9 ml of concentrated hydrochloric acid followed by 1.74 g. (0.0164 moles) of sodium chlorate in 4 ml of water. The temperature is held below 25°C with stirring for 10 hours and then cooled in an ice bath. To the reaction mixture is added 40% sodium hydroxide solution and extracted with ether. The ether is worked with water, dried over magnesium sulfite and evaporated to dryness. The hydrochloride salt is then prepared with ethanolic hydrochloric acid to obtain 1-(2-chloro-4-methylphenyl)biguanide hydrochloride.

reactant | 1-(p-tolyl)biguanide | 0.05 moles | C1(=CC=C(C=C1)NC(=N)NC(=N)N)C | C9H13N5
reactant | hydrochloric acid | 9 ml | Cl | ClH
reactant | sodium chlorate | 0.0164 moles | Cl(=O)(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
solvent | water | 4 ml | O | H2O
product | 1-(2-chloro-4-methylphenyl)biguanide hydrochloride | Cl.ClC1=C(C=CC(=C1)C)NC(=N)NC(=N)N | InChI=1S/C9H12ClN5.ClH/c1-5-2-3-7(6(10)4-5)14-9(13)15-8(11)12;/h2-4H,1H3,(H6,11,12,13,14,15);1H
